US07713969B2
(±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-phenyl-pyrrolidine-2,5-dione was prepared according to the Example 40 replacing 2-chloro-4-fluorophenylacetamide with phenylacetamide. 1HNMR (DMSO-d6) 400 MHz δ: 11.511(s, 1H), 7.24-7.36(m, 6H), 7.13(d, 1H, J=7.2), 6.8-6.88(m, 2H), 4.49(d, 1H, J=8.0 Hz), 4.3 (d, 1H, J=7.6 Hz), 4.08(m, 2H), 2.88 (m, 2H), 2.088(m, 2H).

reactant | 2-chloro-4-fluorophenylacetamide | ClC1=C(C=CC(=C1)F)CC(=O)N | C8H7ClFNO
reactant | phenylacetamide | C1(=CC=CC=C1)CC(=O)N | C8H9NO
product | (±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-phenyl-pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=CC=CC=C2)=O)=O | C21H18N2O2
